US03951959
1,3,17β-Tris(hexanoyloxy)-8α-estra-1,3,5(10)-triene
A solution of 450 mg. of 8α-estra-1,3,5(10)-triene-1,3,17β-triol in 3 ml. of pyridine is combined with 1.5 ml. of caproic anhydride and heated under nitrogen to 90° C. for 5 hours. The mixture is then poured into ice water, a small amount of methanol is added, and the mixture is stirred for 1 hour to decompose excess anhydride. The mixture is taken up in ether, the ether solution is washed neutral with dilute sulfuric acid, sodium bicarbonate solution, and water, dried, and evaporated. After purification by chromatography over silica gel, 320 mg. of final product is obtained.

reactant | 8α-estra-1,3,5(10)-triene-1,3,17β-triol | C[C@@]12[C@H](CC[C@H]1[C@H]1CCC=3C=C(C=C(C3[C@H]1CC2)O)O)O | C18H24O3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | caproic anhydride | C(CCCCC)(=O)OC(CCCCC)=O | C12H22O3
reactant | methanol | CO | CH4O
reactant | ether | CCOCC | C4H10O
product | 1,3,17β-Tris(hexanoyloxy)-8α-estra-1,3,5(10)-triene | C(CCCCC)(=O)OC1=CC(=CC=2CC[C@@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3C12)OC(CCCCC)=O)OC(CCCCC)=O | C36H54O6
